US05250528
To a mixture of 1-nitrosopiperazine {1.21 g) and pyridine (2.4 ml) in dioxane (18 ml) was added dropwise 2-thenoyl chloride (1.2 ml) in an ice bath. The mixture was stirred for one hour in an ice.bath and then overnight at ambient temperature. The mixture was poured into a mixture of ethyl acetate (100 ml) and water (100 ml). The separated aqueous layer was extracted twice with ethyl acetate. The combined organic layers were dried and concentrated in vacuo. The residue was pulverized with diisopropyl ether to yield 1-nitroso-4-(2-thenoyl)-piperazine (1.78 g).

reactant | 1-nitrosopiperazine | 1.21 g | N(=O)N1CCNCC1 | C4H9N3O
reactant | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-thenoyl chloride | 1.2 ml | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 1-nitroso-4-(2-thenoyl)-piperazine | 1.78 g | N(=O)N1CCN(CC1)C(C1=CC=CS1)=O | C9H11N3O2S
